US07626021B2
1-methyl-1H-imidazole-4-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-amide (0.289 mmol) was dissolved in tetrahydrofuran (2.0 mL), cooled to 0° C. and treated with 5% perchloric acid in acetic acid (8 mL) for 3 h. The material was carefully poured into saturated sodium bicarbonate and extracted into ethyl acetate. The organic layer was washed with saturated sodium bicarbonate (3×), dried over sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to afford 1-methyl-1H-imidazole-4-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-amide (35.8 mg, 27.9%). 1H-NMR (500 MHz, dimethylsulfoxide-d6) δ 3.0 (s, 3H), 3.06 (s, 3H), 3.73 (s, 3H), 3.83 (s, 3H), 7.05 (dt, J=7.0 Hz, J=1.0 Hz, 1H), 7.13 (bd, J=7.5 Hz, 1H), 7.30 (dd, J=1.5, J=7.0 Hz 1H), 7.61 (dd, J=1.5 Hz, J=7.5 Hz, 1H), 7.72 (d, J=7.5 Hz, 1H), 7.73 (8.33 (d, J=7.5 Hz, 1H), 7.77 (br s, 1H), 7.81 (dd, J=2.0, J=8.5 Hz, 1H), 7.84 (d, J=1.5 Hz, 1H), 8.19 (s, 1H), 8.44 (d, J=9.0 Hz, 1H), 8.57 (d, J=2.0 Hz, 1H), 10.07 (s, 1H), 11.83 (s, 1H). MS: m/z 496 (M+H+).

reactant | 1-methyl-1H-imidazole-4-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-amide | 0.289 mmol | CN(C(=O)C1=C(C=CC(=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)NC(=O)C=2N=CN(C2)C)C | C33H39N7O4Si
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 1-methyl-1H-imidazole-4-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-amide | 35.8 mg, 27.9% | CN(C(=O)C1=C(C=CC(=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)NC(=O)C=2N=CN(C2)C)C | C27H25N7O3
